US07884101B2
Preparation of 2-(4-chloro-phenyl)-2-hydroxy-N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-acetamide (Compound 95). Method R
A mixture of 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (100 mg, 0.35 mmol), 4-chloromandelic acid (98 mg, 0.525 mmol), HATU (200 mg, 0.525 mmol) and triethylamine (0.5 mL) in DMF (6 mL) was heated at 50° C. overnight. The crude was purified by HPLC to provide the title compound as a semi-solid (24 mg, i 5%). 1H NMR (DMSO-d6, 400 MHz) δ 1.60-1.73 (m, 2H), 1.84-1.91 (m, 2H), 2.80-2.90 (m, 2H), 3.22-3.30 (m, 4H), 3.65 (s, 3H), 4.25 (t, J=5.05 Hz, 2H), 6.26 (d, J=1.77 Hz, 1H), 7.17 (d, J=9.09 Hz, 1H), 7.39-7.46 (m, 2H), 7.51-7.53 (m 3H), 7.67 (d, J=2.53 Hz, 1H), 7.80 (dd, J=2.78, 8.84 Hz, 1H), 9.50 (s br, 1H), 10.0 (s, 1H). Exact mass calculated for C24H27ClN4O3 454.2. found 455.4 (M+).

reactant | 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.35 mmol, 100 mg | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCCC1)N | C16H22N4O
reactant | 4-chloromandelic acid | 0.525 mmol, 98 mg | ClC1=CC=C(C(C(=O)O)O)C=C1 | C8H7ClO3
reactant | HATU | 0.525 mmol, 200 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-(4-chloro-phenyl)-2-hydroxy-N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-acetamide | 24 mg, 5% | ClC1=CC=C(C=C1)C(C(=O)NC1=CC(=C(C=C1)OCCN1CCCC1)C=1N(N=CC1)C)O | C24H27ClN4O3
